US08124649B2
A solution of methyl 3-(4-methyl-5-((2-oxoindolin-3-ylidene)methyl)furan-2-yl)benzoate (125 mg, 0.35 mmol) in EtOH (5.0 mL) and NaOH (3N, 3.0 mL) was heated at 80° C. for 30 min. The reaction mixture was cooled to rt and pH was adjusted (pH=4) with HCl (6N). The resulting precipitate was collected by filtration to give the desired 3-(4-methyl-5-((2-oxoindolin-3-ylidene)methyl)furan-2-yl)benzoic acid (95 mg). LCMS (ES): m/z 346 [M+1]+.

reactant | methyl 3-(4-methyl-5-((2-oxoindolin-3-ylidene)methyl)furan-2-yl)benzoate | 0.35 mmol, 125 mg | CC=1C=C(OC1C=C1C(NC2=CC=CC=C12)=O)C=1C=C(C(=O)OC)C=CC1 | C22H17NO4
reactant | HCl | 6N | Cl | ClH
solvent | EtOH | 5.0 mL | CCO | C2H6O
solvent | NaOH | 3N, 3.0 mL | [OH-].[Na+]
product | 3-(4-methyl-5-((2-oxoindolin-3-ylidene)methyl)furan-2-yl)benzoic acid | 95 mg | CC=1C=C(OC1C=C1C(NC2=CC=CC=C12)=O)C=1C=C(C(=O)O)C=CC1 | C21H15NO4
